US07741323B2
(step 4) Preparation of 6-hydroxy-1-oxo-3-phenyl-1H-indene-2-carboxylate ethyl ester (formula (II))
6-Hydroxy-3-phenyl-1H-indene-2-carboxylate ethyl ester (1 g, 3.57 mmol) was dissolved in 1,4-dioxane (50 ml), and then selenium dioxide (5.49 g, 53.55 mmol) was added thereto. The mixture was refluxed for 12 hour with vigorous stirring. The resulting mixture was filtered and concentrated, and the concentrate was extracted with ethyl acetate. The extract was washed with brine, and the organic layer was dried over anhydrous magnesium sulfate, concentrated under a reduced pressure, and the residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain the title compound (58%) as a rich red solid.

reactant | 6-Hydroxy-3-phenyl-1H-indene-2-carboxylate ethyl ester | 3.57 mmol, 1 g | C(C)OC(=O)C=1CC2=CC(=CC=C2C1C1=CC=CC=C1)O | C18H16O3
reactant | selenium dioxide | 53.55 mmol, 5.49 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 6-hydroxy-1-oxo-3-phenyl-1H-indene-2-carboxylate ethyl ester | 58% | C(C)OC(=O)C=1C(C2=CC(=CC=C2C1C1=CC=CC=C1)O)=O | C18H14O4
